US05366982
By using a similar procedure to that described in example 24 but with 1 g of 3-benzylbenzaldehyde, 5.5 g of (6-carboxy-hexyl)triphenylphosphonium iodide, 2.5 g of potassium ter-butylate and 40 cc of toluene as the starting material (1 hour; 50° C.), and after purification by flash chromatography on silica gel (30-60 Mm; eluent: 8:2:0.05 n-hexane/ethyl acetate/acetic acid), 7-(3-benzyl-phenyl)-6-heptenoic acid is obtained. (m.p.=68° C.)

reactant | 3-benzylbenzaldehyde | 1 g | C(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C14H12O
reactant | (6-carboxy-hexyl)triphenylphosphonium iodide | 5.5 g | [I-].C(=O)(O)CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium ter-butylate | 2.5 g | CC(C)(C)[O-].[K+]
solvent | toluene | 40 cc | C1(=CC=CC=C1)C | C7H8
product | 7-(3-benzyl-phenyl)-6-heptenoic acid | C(C1=CC=CC=C1)C=1C=C(C=CC1)C=CCCCCC(=O)O | C20H22O2
